US08022223B2
Step D: Preparation of 3-((2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)methyl)pyrrolidin-2-one.
In a 20 mL scintillation vial, tert-butyl 3-((2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)methyl)-2-oxopyrrolidine-1-carboxylate (35 mg, 0.064 mmol) was dissolved in CH2Cl2 (1 mL) and HCl (4.0M solution in dioxane) (2.00 mL, 8.00 mmol) was added. The resulting mixture was agitated overnight. The solvents and excess HCl were evaporated, and product was obtained as yellow solid (25 mg, 87.5% yield). 1H NMR (DMSO-d6 δ 1.70-1.80 (m, 1H), 2.12-2.20 (m, 1H), 2.60-2.74 (m, 1H), 3.02 (d, 1H), 3.16-3.22 (m, 2H), 3.44-3.76 (m, 5H), 6.97 (s, 1H), 7.19-7.50 (m, 6H), 7.83 (s, 1H), 8.30 (s, 1H).

reactant | tert-butyl 3-((2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)methyl)-2-oxopyrrolidine-1-carboxylate | 0.064 mmol, 35 mg | BrC=1C=C(C(=NC1)NC=1SC=C(N1)CC1C(N(CC1)C(=O)OC(C)(C)C)=O)OC1=CC=CC=C1 | C24H25BrN4O4S
reactant | HCl | 8.00 mmol, 4.0M, 2.00 mL | Cl | ClH
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-((2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)methyl)pyrrolidin-2-one | 25 mg, 87.5% yield | BrC=1C=C(C(=NC1)NC=1SC=C(N1)CC1C(NCC1)=O)OC1=CC=CC=C1 | C19H17BrN4O2S
